US07265246B2
Prepare a solution of N-(2-hydroxypropyl)benzamide (8.22 g, 45.9 mmol) in methylene chloride (100 mL). Add N-methylmorpholine N-oxide (7.0 g, 60.0 mmol) followed by powdered 4 Å molecular sieves. Cool the mixture to 0° C. and add tetra-n-propylammonium perruthenate in one portion. Stir the mixture for 30 minutes and then warm to room temperature for 1 hour and filter through Celite®. Concentrate the filtrate and flash-chromatograph on silica gel eluting with 100% ethyl acetate to afford 6.1 g of N-(2-oxopropyl)benzamide as a white solid. MS: m/e=178 (MH+)

reactant | N-(2-hydroxypropyl)benzamide | 45.9 mmol, 8.22 g | OC(CNC(C1=CC=CC=C1)=O)C | C10H13NO2
reactant | N-methylmorpholine N-oxide | 60.0 mmol, 7.0 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | tetra-n-propylammonium perruthenate | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | N-(2-oxopropyl)benzamide | 6.1 g | O=C(CNC(C1=CC=CC=C1)=O)C | C10H11NO2
